US09388147B2
To a flask containing methyl 3-bromo-5-hydroxybenzoate (2.1 g, 8.9 mmol) in anhydrous DMF (10 mL) was added K2CO3 (2.47 g, 17.9 mmol) and 2-iodopropane (1.07 mL, 10.7 mmol). The reaction mixture was heated at 65° C. overnight then diluted with EA and washed with NaHCO3. The organic layers were dried and concentrated to provide 1.81 g (75%) of methyl 3-bromo-5-isopropoxybenzoate as a white solid. LCMS-ESI (m/z) calculated for C11H13BrO3: 273.12; no observed m/z ion, tR=4.17 min.

reactant | methyl 3-bromo-5-hydroxybenzoate | 8.9 mmol, 2.1 g | BrC=1C=C(C(=O)OC)C=C(C1)O | C8H7BrO3
reactant | K2CO3 | 17.9 mmol, 2.47 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-iodopropane | 10.7 mmol, 1.07 mL | IC(C)C | C3H7I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | methyl 3-bromo-5-isopropoxybenzoate | 1.81 g, 75% | BrC=1C=C(C(=O)OC)C=C(C1)OC(C)C | C11H13BrO3
